US08492582B2
Trifluoroacetic acid (3.0 mL) was added to tert-butyl 4-(2-nitrophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate (68 mg), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration, and dioxane (3.0 mL) and a 2 mol/L aqueous solution of sodium hydroxide (0.053 mL) were sequentially added to the obtained solid substance, followed by stirring at room temperature for 1 hour and 50 minutes. Water was added to the reaction mixture. After adjusting the pH to 6.3 with 1 mol/L hydrochloric acid, the solid substance was collected by filtration to obtain 47 mg of 4-(2-nitrophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a white solid.

reactant | Trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-nitrophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 68 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C29H25N3O5
product | 4-(2-nitrophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 47 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C25H17N3O5
